US08252810B2
(1) 2-(3-Oxo-[1,2,4]triazolo[4,3-a]pyridin-2-ylmethyl)acrylic acid methyl ester
After dissolving 2H-[1,2,4]triazolo[4,3-a]pyridin-3-one (CAS 6969-71-7) (1.0 g) in N,N-dimethylformamide (50 ml), sodium hydride (60% in oil) (355 mg) was added while stirring on ice. After stirring for 20 minutes, methyl 3-bromo-2-(bromomethyl)propionate (2.11 ml) was added dropwise. Stirring was continued for 1 hour and 30 minutes, and then sodium hydride (60% in oil) (200 mg) was added and the mixture was stirred for 3 hours. Water was added to the reaction mixture, and extraction was performed with ethyl acetate. The organic layer was washed with water and brine in that order and then dried over anhydrous magnesium sulfate. After filtration, the solvent was distilled off under reduced pressure. The residue was purified by NH silica gel column chromatography to obtain the title compound (400 mg).

reactant | 2H-[1,2,4]triazolo[4,3-a]pyridin-3-one | 1.0 g | N=1NC(N2C1C=CC=C2)=O | C6H5N3O
reactant | sodium hydride | 355 mg | [H-].[Na+]
reactant | methyl 3-bromo-2-(bromomethyl)propionate | 2.11 ml | BrCC(C(=O)OC)CBr | C5H8Br2O2
reactant | sodium hydride | 200 mg | [H-].[Na+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-Oxo-[1,2,4]triazolo[4,3-a]pyridin-2-ylmethyl)acrylic acid methyl ester | 400 mg | COC(C(=C)CN1N=C2N(C=CC=C2)C1=O)=O | C11H11N3O3
